US07579469B2
A solution of oxalyl chloride (2.2 mL, 2.0M in dichloromethane) was diluted with dichloromethane (3.0 mL) and cooled in a dry ice/acetone bath. To this solution was added a solution of DMSO (0.7 mL) in dichloromethane (2.5 mL) dropwise. After 10 minutes, a solution of the [1,1-difluoro-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentyl]phosphonic acid diethyl ester (1.10 g) in dichloromethane (3 mL) was added and the mixture was stirred for 15 minutes. Triethylamine (4.0 mL) was added, the cooling bath was removed, the reaction mixture was allowed to warm to room temperature and quenched with water and diluted with hexanes. The organic layer was separated, washed with water, dried, filtered, and concentrated in vacuo. The residue was purified by chromatography over silica gel (eluent: hexanes to hexanes-ethyl acetate (2:1) gradient) to give [1,1-difluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]phosphonic acid diethyl ester as an oil (1.0 g, 91%).

reactant | oxalyl chloride | 2.0M, 2.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.7 mL | CS(=O)C | C2H6OS
reactant | [1,1-difluoro-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentyl]phosphonic acid diethyl ester | 1.10 g | C(C)OP(OCC)(=O)C(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)O)(F)F | C17H26F3O5P
reactant | Triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | [1,1-difluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]phosphonic acid diethyl ester | 1.0 g, 91% | C(C)OP(OCC)(=O)C(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)=O)(F)F | C17H24F3O5P
